US08404722B2
Preparation of 4-(2-(4-nitrophenyl)-5-(trifluoromethyl)oxazol-4-yl)pyridine (34b):
to a stirred mixture of 4-nitro-N-(pyridin-4-ylmethyl)benzamide (9.630 g, 37 mmol) and pyridine (36 ml, 449 mmol) in 200 mL toluene cooled by an ice bath was added drop wise by addition funnel trifluoroacetic acid anhydride (32 ml, 225 mmol) over a period of 10 minutes. The reaction was stirred at room temperature overnight then poured into a saturated aqueous sodium bicarbonate solution and stirred vigorously for 1 hour. The organic layer was washed with brine then dried over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to afford an orange solid. Purified product was isolated by recrystallization from ethyl acetate to afford product as pink needles (7.0 g, 56%). ESI+ m/z=336.0 [MH]+.

reactant | 4-nitro-N-(pyridin-4-ylmethyl)benzamide | 37 mmol, 9.630 g | [N+](=O)([O-])C1=CC=C(C(=O)NCC2=CC=NC=C2)C=C1 | C13H11N3O3
reactant | pyridine | 449 mmol, 36 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid anhydride | 225 mmol, 32 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-(4-nitrophenyl)-5-(trifluoromethyl)oxazol-4-yl)pyridine | 7.0 g, 56% | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC(=C(N1)C1=CC=NC=C1)C(F)(F)F | C15H8F3N3O3
